### PR TITLE
[Merged by Bors] - feat(IntermediateField/LinearDisjoint): add `finrank_left_eq_finrank` and `finrank_right_eq_finrank`

### PR DESCRIPTION
**Pull request by xroblot**
Add the following result:

If `A` and `B` are linearly disjoint over `F` and `A ⊔ B = E`, then the `Module.finrank` of
`E` over `A` is equal to the `Module.finrank` of `B` over `F`.

and the corresponding right version.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/LinearDisjoint.lean [hunk 1]
```diff
@@ -410,6 +410,21 @@ theorem of_finrank_sup [FiniteDimensional F A] [FiniteDimensional F B]
     (H : finrank F ↥(A ⊔ B) = finrank F A * finrank F B) : A.LinearDisjoint B :=
   linearDisjoint_iff'.2 <| .of_finrank_sup_of_free (by rwa [← sup_toSubalgebra_of_left])
 
+/-- If `A` and `B` are linearly disjoint over `F` and `A ⊔ B = E`, then the `Module.finrank` of
+`E` over `A` is equal to the `Module.finrank` of `B` over `F`.
+-/
+theorem finrank_left_eq_finrank [Module.Finite F A] (h₁ : A.LinearDisjoint B) (h₂ : A ⊔ B = ⊤) :
+    finrank A E = finrank F B := by
+  have := finrank_mul_finrank F A E ▸ finrank_top F E ▸ h₂ ▸ h₁.finrank_sup
+  rwa [mul_right_inj' (finrank_pos.ne')] at this
```
Comment (Ruben-VandeVelde) [inline Mathlib/FieldTheory/LinearDisjoint.lean]:
```suggestion
  rwa [mul_right_inj' finrank_pos.ne'] at this
```

File: Mathlib/FieldTheory/LinearDisjoint.lean [hunk 2]
```diff
@@ -410,6 +410,21 @@ theorem of_finrank_sup [FiniteDimensional F A] [FiniteDimensional F B]
     (H : finrank F ↥(A ⊔ B) = finrank F A * finrank F B) : A.LinearDisjoint B :=
   linearDisjoint_iff'.2 <| .of_finrank_sup_of_free (by rwa [← sup_toSubalgebra_of_left])
 
+/-- If `A` and `B` are linearly disjoint over `F` and `A ⊔ B = E`, then the `Module.finrank` of
+`E` over `A` is equal to the `Module.finrank` of `B` over `F`.
+-/
+theorem finrank_left_eq_finrank [Module.Finite F A] (h₁ : A.LinearDisjoint B) (h₂ : A ⊔ B = ⊤) :
+    finrank A E = finrank F B := by
+  have := finrank_mul_finrank F A E ▸ finrank_top F E ▸ h₂ ▸ h₁.finrank_sup
```
Comment (Ruben-VandeVelde) [inline Mathlib/FieldTheory/LinearDisjoint.lean]: I'd lightly prefer adding the type of this `have`; it's pretty hard to follow with the triangles.

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

File: Mathlib/FieldTheory/LinearDisjoint.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/FieldTheory/LinearDisjoint.lean]: Yes, maybe I kind of overdid it :)  I fixed that.

Thanks for the review

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
